US07612067B2
Preparation of 3-(3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a flask of 2-bromo-3-chloro-thiophene (Lemaire et. el., Synth. Commun., 1994, 24, 95) (2.53 g, 12.82 mmol) is added 0.05 g/mL Reike® zinc in THF (25 mL, 19.24 mmol). The solution is heated at a reflux for 2 hours. The excess zinc is allowed to settle and the solution transferred to a flask containing 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (example KW1-A03735-193) (2.01 g, 6.41 mmol) and PdCl2(dppf) (0.23 g, 0.32 mmol). The solution is heated at a reflux overnight, quenched with sat. NH4Cl (25 mL) and extracted with EtOAc (2×25 mL). The combined organic layers are dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (2%-15% EtOAc/hexane gradient) furnish the title compound (1.32 g, 6.68 mmol, 62%). 1H NMR (CDCl3), δ 0.87 (t, J=7.5 Hz, 6H), 1.74-1.91 (m, 4H), 2.48 (s, 3H), 2.49 (s, 3H), 3.37-3.36 (m, 1H), 6.67 (s, 1H), 7.07 (d, J=5.4 Hz, 1H), 7.48 (d, J=5.4 Hz, 1H). LC/MS (m/z): calcd. for C17H20ClN3S (M+H)+: 334.1; found: 334.1.

reactant | 2-bromo-3-chloro-thiophene | 12.82 mmol, 2.53 g | BrC=1SC=CC1Cl | C4H2BrClS
reactant | THF | 19.24 mmol, 25 mL | C1CCOC1 | C4H8O
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 6.41 mmol, 2.01 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
catalyst | zinc | [Zn] | Zn
catalyst | PdCl2(dppf) | 0.32 mmol, 0.23 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 6.68 mmol, 1.32 g, 62% | ClC1=C(SC=C1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C17H20ClN3S
